US07625880B2
2,6-Dichlorophenyl isothiocyanate (3.46 g, 17.0 mmol), THF (100 mL), and 2-(4-amino-2-cyano-3-methylamino-phenyl)-2-methyl-3-oxo-butyric acid ethyl ester (4.91 g, 17.0 mmol), were added to a 250 mL round bottom flask equipped with a magnetic stir bar and the reaction was stirred at room temperature. After 2 hours, mercuric oxide (4.04 g, 18.7 mmol) was added and the reaction stirred for an additional 14 h. The resultant brown slurry was filtered through celite and washed with THF. The filtrate was concentrated and the residue triturated with diethyl ether to provide 2-[4-cyano-2-(2,6-dichloro-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester (4.2 g, 54%) as a gray solid, which was used without further purification.

reactant | 2,6-Dichlorophenyl isothiocyanate | 17.0 mmol, 3.46 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
reactant | 2-(4-amino-2-cyano-3-methylamino-phenyl)-2-methyl-3-oxo-butyric acid ethyl ester | 17.0 mmol, 4.91 g | C(C)OC(C(C(C)=O)(C)C1=C(C(=C(C=C1)N)NC)C#N)=O | C15H19N3O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[4-cyano-2-(2,6-dichloro-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester | 4.2 g, 54% | C(C)OC(C(C(C)=O)(C)C1=C(C2=C(N=C(N2C)NC2=C(C=CC=C2Cl)Cl)C=C1)C#N)=O | C22H20Cl2N4O3
